US08802670B2
2-Nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.00 g) was stirred under hydrogen balloon with palladium on carbon (10%, 150 mg) in a mixture of MeOH and DCM (1:1, 10 ml) at room temperature overnight. The reaction mixture was then filtered through Celite®, volatiles removed in vacuo, and the residue purified by flash chromatography to give 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,2-diamine (890 mg).

reactant | 2-Nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.00 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H17BN2O4
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
solvent | MeOH | CO | CH4O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,2-diamine | 890 mg | CC1(OB(OC1(C)C)C=1C=C(C(=CC1)N)N)C | C12H19BN2O2
